US05521179
2-(3-Amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To a solution of 2-(3-benzyloxycarbonylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (10 g) and anisole (6.6 g) in dichloromethane (100 mL) at 0° C. was added trifluoromethanesulphonic acid (9 mL, 15.3 g) while maintaining the temperature below 2° C. The reaction mixture was allowed to warm to room temperature in 30 min and kept at room temperature for a further 45 min before saturated aqueous sodium bicarbonate was added slowly to pH 7. Ethyl acetate was added, the phases separated and the aqueous phase extracted further with ethyl acetate. The combined organic extract was washed (brine), dried (MgSO4) and evaporated. The crude product was purified by trituration with hexane followed by trituration with diethyl ether to give the title product (which can be recrystallized from dichloromethane/hexane) as a white solid (4.85 g); TLC: Rf =0.40, ethyl acetate; 300 MHz NMR: 0.78-0.91 (m,6), 2.07-2.30 (m,1), 4.39 (d,1), 4.49 (d,1), 4.61 (t,1), 5.17 (s,1), 5.98 (d,1), 6.51 (d,1), 7.28-7.41 (m,5), 8.68 (d,1); MS: m/z=396(M+1).

reactant | 2-(3-benzyloxycarbonylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 10 g | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C27H26F3N3O5
reactant | anisole | 6.6 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoromethanesulphonic acid | 9 mL, 15.3 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-Amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 4.85 g | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C19H20F3N3O3
